US04582837
8-(2'-Methoxy-4'-aminocarbonyl-phenyl)-purine
One gram of 8-(2'-methoxy-4'-cyano-phenyl)-purine was dissolved in 75 ml of 2N sodium hydroxide solution and refluxed for 15 minutes. Then, the mixture was acidified with hydrochloric acid, and the mixture precipitated was separated into its components by use of silica gel [eluant: methylene chloride/ethanol (7:3 to 1:1)].

reactant | 8-(2'-methoxy-4'-cyano-phenyl)-purine | One gram | COC1=C(C=CC(=C1)C#N)C1=NC2=NC=NC=C2N1 | C13H9N5O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2N, 75 ml | [OH-].[Na+]
product | 8-(2'-Methoxy-4'-aminocarbonyl-phenyl)-purine | COC1=C(C=CC(=C1)C(=O)N)C1=NC2=NC=NC=C2N1 | C13H11N5O2
